US04939130
The starting material can be prepared as follows: 0.5 g (0.032 mole) of 1-methyl-2-cyanomethylimidazole hydrochloride, 15 ml of glacial acetic and 15 ml of 36% hydrochlorid acid are heated for 24 hours to the boil under reflux. The reaction mixture is then evaporated to dryness under reduced pressure and the residue is taken up in 30 ml of hot glacial acetic acid and undissolved ammonium chloride is removed by filtration. The filtrate is concentrated by evaporation and the residue is taken up in acetone, affording 1-methyl-2-carboxymethylimidazole hydrochloride, m.p. 163°-164° C.

reactant | 1-methyl-2-cyanomethylimidazole hydrochloride | 0.032 mole, 0.5 g | Cl.CN1C(=NC=C1)CC#N
reactant | acetic | 15 ml | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
reactant | hydrochlorid | 15 ml | Cl | ClH
product | 1-methyl-2-carboxymethylimidazole hydrochloride | Cl.CN1C(=NC=C1)CC(=O)O | InChI=1S/C6H8N2O2.ClH/c1-8-3-2-7-5(8)4-6(9)10;/h2-3H,4H2,1H3,(H,9,10);1H
